US05254718
Chemical Synthesis of Methyl 2-(2-Hydroxy-1-oxoethoxy)propionate
Tetramethylammonium hydroxide (25% in methanol) was added to a stirring solution of glycolic acid (3.8 g, 50 mmol) in 5 mL dimethylformamide cooled on ice until a pH of 7 was indicated by moistened pH paper. Methyl 2-bromopropionate (6.1 mL, 55 mmol) was added and the reaction was stirred at room temperature for 5 d. The reaction mixture was filtered, the solids were washed with ethyl ether, and the combined filtrate and ether solution was washed with 5% NaCl/5% NaHCO3. Sufficient ethyl ether was added to effect rapid separation of the phases, the aqueous phase was extracted with CH2Cl2, and the organic phases were combined and dried with MgO4. The solvent was removed and the resulting residue was distilled under reduced pressure to give the title compound: b.p. 64° C./0.05 mm Hg; 1H NMR δ 1.53 (d, 3H, J=7.2 Hz), δ 2.78 (bs, 1H), δ 3.77 (s, 3H),δ 4.24 (d, 1H, J=17.4 Hz) δ 4.31 (d, 1H, J=17.4 Hz), δ 5.22 (q, 1H, J=7.1 Hz), HRMS calcd for C6H9O5Tms (M--CH3) 219.0688, obsd 219.0708.

reactant | Tetramethylammonium hydroxide | [OH-].C[N+](C)(C)C
reactant | glycolic acid | 50 mmol, 3.8 g | C(CO)(=O)O | C2H4O3
reactant | Methyl 2-bromopropionate | 55 mmol, 6.1 mL | BrC(C(=O)OC)C | C4H7BrO2
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | Methyl 2-(2-Hydroxy-1-oxoethoxy)propionate | OCC(OC(C(=O)OC)C)=O | C6H10O5
